*-- pdngen: spice deck generated for chip 'chiplet6' PDN
*-- die chiplet6:  W/H: 0.003/0.003


.subckt chiplet6
+nd_pad_port_0_1
+nd_pad_port_0_3
+nd_pad_port_0_5
+nd_pad_port_1_0
+nd_pad_port_1_2
+nd_pad_port_1_4
+nd_pad_port_2_1
+nd_pad_port_2_3
+nd_pad_port_2_5
+nd_pad_port_3_0
+nd_pad_port_3_2
+nd_pad_port_3_4
+nd_pad_port_4_1
+nd_pad_port_4_3
+nd_pad_port_4_5
+nd_pad_port_5_0
+nd_pad_port_5_2
+nd_pad_port_5_4
*-- p/g port #: 18/18
+nd_1_0_666_666

*-- layer 1: net: 0 [X] VDD net from layer 1-2
rd_1_2_0_0_0 nd_1_0_666_666 nd_1_0_2000_666 0.016324
rd_1_2_0_0_1 nd_1_0_2000_666 nd_1_0_3333_666 0.016324
rd_1_2_0_0_2 nd_1_0_3333_666 nd_1_0_4666_666 0.016324
rd_1_2_0_0_3 nd_1_0_4666_666 nd_1_0_6000_666 0.016324
rd_1_2_0_0_4 nd_1_0_6000_666 nd_1_0_7333_666 0.016324
rd_1_2_0_0_5 nd_1_0_7333_666 nd_1_0_8666_666 0.016324
rd_1_2_0_1_0 nd_1_0_666_2000 nd_1_0_2000_2000 0.016324
rd_1_2_0_1_1 nd_1_0_2000_2000 nd_1_0_3333_2000 0.016324
rd_1_2_0_1_2 nd_1_0_3333_2000 nd_1_0_4666_2000 0.016324
rd_1_2_0_1_3 nd_1_0_4666_2000 nd_1_0_6000_2000 0.016324
rd_1_2_0_1_4 nd_1_0_6000_2000 nd_1_0_7333_2000 0.016324
rd_1_2_0_1_5 nd_1_0_7333_2000 nd_1_0_8666_2000 0.016324
rd_1_2_0_2_0 nd_1_0_666_3333 nd_1_0_2000_3333 0.016324
rd_1_2_0_2_1 nd_1_0_2000_3333 nd_1_0_3333_3333 0.016324
rd_1_2_0_2_2 nd_1_0_3333_3333 nd_1_0_4666_3333 0.016324
rd_1_2_0_2_3 nd_1_0_4666_3333 nd_1_0_6000_3333 0.016324
rd_1_2_0_2_4 nd_1_0_6000_3333 nd_1_0_7333_3333 0.016324
rd_1_2_0_2_5 nd_1_0_7333_3333 nd_1_0_8666_3333 0.016324
rd_1_2_0_3_0 nd_1_0_666_4666 nd_1_0_2000_4666 0.016324
rd_1_2_0_3_1 nd_1_0_2000_4666 nd_1_0_3333_4666 0.016324
rd_1_2_0_3_2 nd_1_0_3333_4666 nd_1_0_4666_4666 0.016324
rd_1_2_0_3_3 nd_1_0_4666_4666 nd_1_0_6000_4666 0.016324
rd_1_2_0_3_4 nd_1_0_6000_4666 nd_1_0_7333_4666 0.016324
rd_1_2_0_3_5 nd_1_0_7333_4666 nd_1_0_8666_4666 0.016324
rd_1_2_0_4_0 nd_1_0_666_6000 nd_1_0_2000_6000 0.016324
rd_1_2_0_4_1 nd_1_0_2000_6000 nd_1_0_3333_6000 0.016324
rd_1_2_0_4_2 nd_1_0_3333_6000 nd_1_0_4666_6000 0.016324
rd_1_2_0_4_3 nd_1_0_4666_6000 nd_1_0_6000_6000 0.016324
rd_1_2_0_4_4 nd_1_0_6000_6000 nd_1_0_7333_6000 0.016324
rd_1_2_0_4_5 nd_1_0_7333_6000 nd_1_0_8666_6000 0.016324
rd_1_2_0_5_0 nd_1_0_666_7333 nd_1_0_2000_7333 0.016324
rd_1_2_0_5_1 nd_1_0_2000_7333 nd_1_0_3333_7333 0.016324
rd_1_2_0_5_2 nd_1_0_3333_7333 nd_1_0_4666_7333 0.016324
rd_1_2_0_5_3 nd_1_0_4666_7333 nd_1_0_6000_7333 0.016324
rd_1_2_0_5_4 nd_1_0_6000_7333 nd_1_0_7333_7333 0.016324
rd_1_2_0_5_5 nd_1_0_7333_7333 nd_1_0_8666_7333 0.016324
rd_1_2_0_6_0 nd_1_0_666_8666 nd_1_0_2000_8666 0.016324
rd_1_2_0_6_1 nd_1_0_2000_8666 nd_1_0_3333_8666 0.016324
rd_1_2_0_6_2 nd_1_0_3333_8666 nd_1_0_4666_8666 0.016324
rd_1_2_0_6_3 nd_1_0_4666_8666 nd_1_0_6000_8666 0.016324
rd_1_2_0_6_4 nd_1_0_6000_8666 nd_1_0_7333_8666 0.016324
rd_1_2_0_6_5 nd_1_0_7333_8666 nd_1_0_8666_8666 0.016324
*-- layer 1: net: 0 [X] VSS net from layer 1-2
*-- layer 2: net: 0 [Y] VDD net from layer 2-1
rd_2_1_0_0_0 nd_2_0_666_666 nd_2_0_666_2000 0.016324
rd_2_1_0_0_1 nd_2_0_666_2000 nd_2_0_666_3333 0.016324
rd_2_1_0_0_2 nd_2_0_666_3333 nd_2_0_666_4666 0.016324
rd_2_1_0_0_3 nd_2_0_666_4666 nd_2_0_666_6000 0.016324
rd_2_1_0_0_4 nd_2_0_666_6000 nd_2_0_666_7333 0.016324
rd_2_1_0_0_5 nd_2_0_666_7333 nd_2_0_666_8666 0.016324
rd_2_1_0_1_0 nd_2_0_2000_666 nd_2_0_2000_2000 0.016324
rd_2_1_0_1_1 nd_2_0_2000_2000 nd_2_0_2000_3333 0.016324
rd_2_1_0_1_2 nd_2_0_2000_3333 nd_2_0_2000_4666 0.016324
rd_2_1_0_1_3 nd_2_0_2000_4666 nd_2_0_2000_6000 0.016324
rd_2_1_0_1_4 nd_2_0_2000_6000 nd_2_0_2000_7333 0.016324
rd_2_1_0_1_5 nd_2_0_2000_7333 nd_2_0_2000_8666 0.016324
rd_2_1_0_2_0 nd_2_0_3333_666 nd_2_0_3333_2000 0.016324
rd_2_1_0_2_1 nd_2_0_3333_2000 nd_2_0_3333_3333 0.016324
rd_2_1_0_2_2 nd_2_0_3333_3333 nd_2_0_3333_4666 0.016324
rd_2_1_0_2_3 nd_2_0_3333_4666 nd_2_0_3333_6000 0.016324
rd_2_1_0_2_4 nd_2_0_3333_6000 nd_2_0_3333_7333 0.016324
rd_2_1_0_2_5 nd_2_0_3333_7333 nd_2_0_3333_8666 0.016324
rd_2_1_0_3_0 nd_2_0_4666_666 nd_2_0_4666_2000 0.016324
rd_2_1_0_3_1 nd_2_0_4666_2000 nd_2_0_4666_3333 0.016324
rd_2_1_0_3_2 nd_2_0_4666_3333 nd_2_0_4666_4666 0.016324
rd_2_1_0_3_3 nd_2_0_4666_4666 nd_2_0_4666_6000 0.016324
rd_2_1_0_3_4 nd_2_0_4666_6000 nd_2_0_4666_7333 0.016324
rd_2_1_0_3_5 nd_2_0_4666_7333 nd_2_0_4666_8666 0.016324
rd_2_1_0_4_0 nd_2_0_6000_666 nd_2_0_6000_2000 0.016324
rd_2_1_0_4_1 nd_2_0_6000_2000 nd_2_0_6000_3333 0.016324
rd_2_1_0_4_2 nd_2_0_6000_3333 nd_2_0_6000_4666 0.016324
rd_2_1_0_4_3 nd_2_0_6000_4666 nd_2_0_6000_6000 0.016324
rd_2_1_0_4_4 nd_2_0_6000_6000 nd_2_0_6000_7333 0.016324
rd_2_1_0_4_5 nd_2_0_6000_7333 nd_2_0_6000_8666 0.016324
rd_2_1_0_5_0 nd_2_0_7333_666 nd_2_0_7333_2000 0.016324
rd_2_1_0_5_1 nd_2_0_7333_2000 nd_2_0_7333_3333 0.016324
rd_2_1_0_5_2 nd_2_0_7333_3333 nd_2_0_7333_4666 0.016324
rd_2_1_0_5_3 nd_2_0_7333_4666 nd_2_0_7333_6000 0.016324
rd_2_1_0_5_4 nd_2_0_7333_6000 nd_2_0_7333_7333 0.016324
rd_2_1_0_5_5 nd_2_0_7333_7333 nd_2_0_7333_8666 0.016324
rd_2_1_0_6_0 nd_2_0_8666_666 nd_2_0_8666_2000 0.016324
rd_2_1_0_6_1 nd_2_0_8666_2000 nd_2_0_8666_3333 0.016324
rd_2_1_0_6_2 nd_2_0_8666_3333 nd_2_0_8666_4666 0.016324
rd_2_1_0_6_3 nd_2_0_8666_4666 nd_2_0_8666_6000 0.016324
rd_2_1_0_6_4 nd_2_0_8666_6000 nd_2_0_8666_7333 0.016324
rd_2_1_0_6_5 nd_2_0_8666_7333 nd_2_0_8666_8666 0.016324
*-- layer 2: net: 0 [Y] VSS net from layer 2-1
*-- via layer 1-2: net: 0 VDD net
rvd_1_0_0_0 nd_1_0_666_666 nd_2_0_666_666 0.005
rvd_1_0_0_1 nd_1_0_2000_666 nd_2_0_2000_666 0.005
rvd_1_0_0_2 nd_1_0_3333_666 nd_2_0_3333_666 0.005
rvd_1_0_0_3 nd_1_0_4666_666 nd_2_0_4666_666 0.005
rvd_1_0_0_4 nd_1_0_6000_666 nd_2_0_6000_666 0.005
rvd_1_0_0_5 nd_1_0_7333_666 nd_2_0_7333_666 0.005
rvd_1_0_0_6 nd_1_0_8666_666 nd_2_0_8666_666 0.005
rvd_1_0_1_0 nd_1_0_666_2000 nd_2_0_666_2000 0.005
rvd_1_0_1_1 nd_1_0_2000_2000 nd_2_0_2000_2000 0.005
rvd_1_0_1_2 nd_1_0_3333_2000 nd_2_0_3333_2000 0.005
rvd_1_0_1_3 nd_1_0_4666_2000 nd_2_0_4666_2000 0.005
rvd_1_0_1_4 nd_1_0_6000_2000 nd_2_0_6000_2000 0.005
rvd_1_0_1_5 nd_1_0_7333_2000 nd_2_0_7333_2000 0.005
rvd_1_0_1_6 nd_1_0_8666_2000 nd_2_0_8666_2000 0.005
rvd_1_0_2_0 nd_1_0_666_3333 nd_2_0_666_3333 0.005
rvd_1_0_2_1 nd_1_0_2000_3333 nd_2_0_2000_3333 0.005
rvd_1_0_2_2 nd_1_0_3333_3333 nd_2_0_3333_3333 0.005
rvd_1_0_2_3 nd_1_0_4666_3333 nd_2_0_4666_3333 0.005
rvd_1_0_2_4 nd_1_0_6000_3333 nd_2_0_6000_3333 0.005
rvd_1_0_2_5 nd_1_0_7333_3333 nd_2_0_7333_3333 0.005
rvd_1_0_2_6 nd_1_0_8666_3333 nd_2_0_8666_3333 0.005
rvd_1_0_3_0 nd_1_0_666_4666 nd_2_0_666_4666 0.005
rvd_1_0_3_1 nd_1_0_2000_4666 nd_2_0_2000_4666 0.005
rvd_1_0_3_2 nd_1_0_3333_4666 nd_2_0_3333_4666 0.005
rvd_1_0_3_3 nd_1_0_4666_4666 nd_2_0_4666_4666 0.005
rvd_1_0_3_4 nd_1_0_6000_4666 nd_2_0_6000_4666 0.005
rvd_1_0_3_5 nd_1_0_7333_4666 nd_2_0_7333_4666 0.005
rvd_1_0_3_6 nd_1_0_8666_4666 nd_2_0_8666_4666 0.005
rvd_1_0_4_0 nd_1_0_666_6000 nd_2_0_666_6000 0.005
rvd_1_0_4_1 nd_1_0_2000_6000 nd_2_0_2000_6000 0.005
rvd_1_0_4_2 nd_1_0_3333_6000 nd_2_0_3333_6000 0.005
rvd_1_0_4_3 nd_1_0_4666_6000 nd_2_0_4666_6000 0.005
rvd_1_0_4_4 nd_1_0_6000_6000 nd_2_0_6000_6000 0.005
rvd_1_0_4_5 nd_1_0_7333_6000 nd_2_0_7333_6000 0.005
rvd_1_0_4_6 nd_1_0_8666_6000 nd_2_0_8666_6000 0.005
rvd_1_0_5_0 nd_1_0_666_7333 nd_2_0_666_7333 0.005
rvd_1_0_5_1 nd_1_0_2000_7333 nd_2_0_2000_7333 0.005
rvd_1_0_5_2 nd_1_0_3333_7333 nd_2_0_3333_7333 0.005
rvd_1_0_5_3 nd_1_0_4666_7333 nd_2_0_4666_7333 0.005
rvd_1_0_5_4 nd_1_0_6000_7333 nd_2_0_6000_7333 0.005
rvd_1_0_5_5 nd_1_0_7333_7333 nd_2_0_7333_7333 0.005
rvd_1_0_5_6 nd_1_0_8666_7333 nd_2_0_8666_7333 0.005
rvd_1_0_6_0 nd_1_0_666_8666 nd_2_0_666_8666 0.005
rvd_1_0_6_1 nd_1_0_2000_8666 nd_2_0_2000_8666 0.005
rvd_1_0_6_2 nd_1_0_3333_8666 nd_2_0_3333_8666 0.005
rvd_1_0_6_3 nd_1_0_4666_8666 nd_2_0_4666_8666 0.005
rvd_1_0_6_4 nd_1_0_6000_8666 nd_2_0_6000_8666 0.005
rvd_1_0_6_5 nd_1_0_7333_8666 nd_2_0_7333_8666 0.005
rvd_1_0_6_6 nd_1_0_8666_8666 nd_2_0_8666_8666 0.005
*-- via layer 1-2: net: 0 VSS net
id_0_0_0_0 nd_1_0_666_666 0 pwl(0 0.0 1.226e-01ns 0.0  1.726e-01ns 8.1e-04  9.429e-01ns 8.1e-04  9.929e-01ns 0.0)
rdesr_0_0_0_0 nd_1_0_666_666 nd_1_0_666_666_ci 136.267
cd_0_0_0_0 nd_1_0_666_666_ci 0 6.30917e-13
id_0_0_0_1 nd_1_0_2000_666 0 pwl(0 0.0 3.229e-01ns 0.0  3.729e-01ns 6.5e-02  4.966e-01ns 6.5e-02  5.466e-01ns 0.0)
rdesr_0_0_0_1 nd_1_0_2000_666 nd_1_0_2000_666_ci 7.99161
cd_0_0_0_1 nd_1_0_2000_666_ci 0 1.98403e-11
id_0_0_0_2 nd_1_0_3333_666 0 pwl(0 0.0 3.306e-01ns 0.0  3.806e-01ns 1.9e-02  5.065e-01ns 1.9e-02  5.565e-01ns 0.0)
rdesr_0_0_0_2 nd_1_0_3333_666 nd_1_0_3333_666_ci 27.0924
cd_0_0_0_2 nd_1_0_3333_666_ci 0 2.22029e-12
id_0_0_0_3 nd_1_0_4666_666 0 pwl(0 0.0 4.677e-01ns 0.0  5.177e-01ns 5.8e-02  6.789e-01ns 5.8e-02  7.289e-01ns 0.0)
rdesr_0_0_0_3 nd_1_0_4666_666 nd_1_0_4666_666_ci 7.35971
cd_0_0_0_3 nd_1_0_4666_666_ci 0 2.58862e-11
id_0_0_0_4 nd_1_0_6000_666 0 pwl(0 0.0 1.504e-01ns 0.0  2.004e-01ns 3.1e-02  4.887e-01ns 3.1e-02  5.387e-01ns 0.0)
rdesr_0_0_0_4 nd_1_0_6000_666 nd_1_0_6000_666_ci 8.60004
cd_0_0_0_4 nd_1_0_6000_666_ci 0 2.23274e-11
id_0_0_0_5 nd_1_0_7333_666 0 pwl(0 0.0 6.108e-01ns 0.0  6.608e-01ns 4.3e-02  8.144e-01ns 4.3e-02  8.644e-01ns 0.0)
rdesr_0_0_0_5 nd_1_0_7333_666 nd_1_0_7333_666_ci 10.269
cd_0_0_0_5 nd_1_0_7333_666_ci 0 2.16647e-12
id_0_0_0_6 nd_1_0_8666_666 0 pwl(0 0.0 7.425e-01ns 0.0  7.925e-01ns 5.2e-03  9.004e-01ns 5.2e-03  9.504e-01ns 0.0)
rdesr_0_0_0_6 nd_1_0_8666_666 nd_1_0_8666_666_ci 109.483
cd_0_0_0_6 nd_1_0_8666_666_ci 0 1.38333e-12
id_0_0_0_7 nd_1_0_666_2000 0 pwl(0 0.0 8.830e-01ns 0.0  9.330e-01ns 1.6e-01  9.448e-01ns 1.6e-01  9.948e-01ns 0.0)
rdesr_0_0_0_7 nd_1_0_666_2000 nd_1_0_666_2000_ci 9.32448
cd_0_0_0_7 nd_1_0_666_2000_ci 0 5.84517e-12
id_0_0_0_8 nd_1_0_2000_2000 0 pwl(0 0.0 4.332e-01ns 0.0  4.832e-01ns 8.2e-03  6.433e-01ns 8.2e-03  6.933e-01ns 0.0)
rdesr_0_0_0_8 nd_1_0_2000_2000 nd_1_0_2000_2000_ci 52.4759
cd_0_0_0_8 nd_1_0_2000_2000_ci 0 1.59292e-12
id_0_0_0_9 nd_1_0_3333_2000 0 pwl(0 0.0 1.215e-01ns 0.0  1.715e-01ns 1.7e-02  8.337e-01ns 1.7e-02  8.837e-01ns 0.0)
rdesr_0_0_0_9 nd_1_0_3333_2000 nd_1_0_3333_2000_ci 7.29552
cd_0_0_0_9 nd_1_0_3333_2000_ci 0 1.56102e-11
id_0_0_0_10 nd_1_0_4666_2000 0 pwl(0 0.0 1.261e-01ns 0.0  1.761e-01ns 8.4e-02  1.782e-01ns 8.4e-02  2.282e-01ns 0.0)
rdesr_0_0_0_10 nd_1_0_4666_2000 nd_1_0_4666_2000_ci 20.5389
cd_0_0_0_10 nd_1_0_4666_2000_ci 0 7.765e-13
id_0_0_0_11 nd_1_0_6000_2000 0 pwl(0 0.0 7.154e-01ns 0.0  7.654e-01ns 4.1e-02  8.867e-01ns 4.1e-02  9.367e-01ns 0.0)
rdesr_0_0_0_11 nd_1_0_6000_2000 nd_1_0_6000_2000_ci 12.7292
cd_0_0_0_11 nd_1_0_6000_2000_ci 0 1.14356e-11
id_0_0_0_12 nd_1_0_7333_2000 0 pwl(0 0.0 7.245e-01ns 0.0  7.745e-01ns 1.5e-01  8.034e-01ns 1.5e-01  8.534e-01ns 0.0)
rdesr_0_0_0_12 nd_1_0_7333_2000 nd_1_0_7333_2000_ci 7.80285
cd_0_0_0_12 nd_1_0_7333_2000_ci 0 6.09405e-12
id_0_0_0_13 nd_1_0_8666_2000 0 pwl(0 0.0 4.056e-01ns 0.0  4.556e-01ns 2.2e-02  8.577e-01ns 2.2e-02  9.077e-01ns 0.0)
rdesr_0_0_0_13 nd_1_0_8666_2000 nd_1_0_8666_2000_ci 9.18165
cd_0_0_0_13 nd_1_0_8666_2000_ci 0 1.93283e-11
id_0_0_0_14 nd_1_0_666_3333 0 pwl(0 0.0 5.435e-01ns 0.0  5.935e-01ns 3.7e-02  7.580e-01ns 3.7e-02  8.080e-01ns 0.0)
rdesr_0_0_0_14 nd_1_0_666_3333 nd_1_0_666_3333_ci 11.2462
cd_0_0_0_14 nd_1_0_666_3333_ci 0 7.71553e-13
id_0_0_0_15 nd_1_0_2000_3333 0 pwl(0 0.0 6.819e-01ns 0.0  7.319e-01ns 5.8e-02  8.660e-01ns 5.8e-02  9.160e-01ns 0.0)
rdesr_0_0_0_15 nd_1_0_2000_3333 nd_1_0_2000_3333_ci 8.4309
cd_0_0_0_15 nd_1_0_2000_3333_ci 0 1.63704e-11
id_0_0_0_16 nd_1_0_3333_3333 0 pwl(0 0.0 8.126e-01ns 0.0  8.626e-01ns 1.5e-01  8.732e-01ns 1.5e-01  9.232e-01ns 0.0)
rdesr_0_0_0_16 nd_1_0_3333_3333 nd_1_0_3333_3333_ci 10.1078
cd_0_0_0_16 nd_1_0_3333_3333_ci 0 1.66218e-11
id_0_0_0_17 nd_1_0_4666_3333 0 pwl(0 0.0 8.258e-01ns 0.0  8.758e-01ns 1.4e-02  8.963e-01ns 1.4e-02  9.463e-01ns 0.0)
rdesr_0_0_0_17 nd_1_0_4666_3333 nd_1_0_4666_3333_ci 91.7499
cd_0_0_0_17 nd_1_0_4666_3333_ci 0 1.06702e-12
id_0_0_0_18 nd_1_0_6000_3333 0 pwl(0 0.0 5.558e-02ns 0.0  1.056e-01ns 4.5e-03  8.825e-01ns 4.5e-03  9.325e-01ns 0.0)
rdesr_0_0_0_18 nd_1_0_6000_3333 nd_1_0_6000_3333_ci 24.4526
cd_0_0_0_18 nd_1_0_6000_3333_ci 0 4.1462e-12
id_0_0_0_19 nd_1_0_7333_3333 0 pwl(0 0.0 1.980e-01ns 0.0  2.480e-01ns 1.8e-02  3.062e-01ns 1.8e-02  3.562e-01ns 0.0)
rdesr_0_0_0_19 nd_1_0_7333_3333 nd_1_0_7333_3333_ci 45.3409
cd_0_0_0_19 nd_1_0_7333_3333_ci 0 2.89148e-12
id_0_0_0_20 nd_1_0_8666_3333 0 pwl(0 0.0 7.886e-01ns 0.0  8.386e-01ns 3.0e-03  8.485e-01ns 3.0e-03  8.985e-01ns 0.0)
rdesr_0_0_0_20 nd_1_0_8666_3333 nd_1_0_8666_3333_ci 500.46
cd_0_0_0_20 nd_1_0_8666_3333_ci 0 3.22615e-13
id_0_0_0_21 nd_1_0_666_4666 0 pwl(0 0.0 3.431e-01ns 0.0  3.931e-01ns 2.3e-02  8.040e-01ns 2.3e-02  8.540e-01ns 0.0)
rdesr_0_0_0_21 nd_1_0_666_4666 nd_1_0_666_4666_ci 8.36303
cd_0_0_0_21 nd_1_0_666_4666_ci 0 7.47417e-12
id_0_0_0_22 nd_1_0_2000_4666 0 pwl(0 0.0 3.159e-02ns 0.0  8.159e-02ns 1.4e-03  8.513e-01ns 1.4e-03  9.013e-01ns 0.0)
rdesr_0_0_0_22 nd_1_0_2000_4666 nd_1_0_2000_4666_ci 77.8361
cd_0_0_0_22 nd_1_0_2000_4666_ci 0 1.20191e-12
id_0_0_0_23 nd_1_0_3333_4666 0 pwl(0 0.0 6.175e-01ns 0.0  6.675e-01ns 9.0e-02  6.796e-01ns 9.0e-02  7.296e-01ns 0.0)
rdesr_0_0_0_23 nd_1_0_3333_4666 nd_1_0_3333_4666_ci 16.1172
cd_0_0_0_23 nd_1_0_3333_4666_ci 0 1.45935e-12
id_0_0_0_24 nd_1_0_4666_4666 0 pwl(0 0.0 7.484e-01ns 0.0  7.984e-01ns 7.5e-02  8.811e-01ns 7.5e-02  9.311e-01ns 0.0)
rdesr_0_0_0_24 nd_1_0_4666_4666 nd_1_0_4666_4666_ci 9.02168
cd_0_0_0_24 nd_1_0_4666_4666_ci 0 1.69752e-11
id_0_0_0_25 nd_1_0_6000_4666 0 pwl(0 0.0 4.319e-01ns 0.0  4.819e-01ns 5.5e-03  8.071e-01ns 5.5e-03  8.571e-01ns 0.0)
rdesr_0_0_0_25 nd_1_0_6000_4666 nd_1_0_6000_4666_ci 43.5295
cd_0_0_0_25 nd_1_0_6000_4666_ci 0 1.89853e-12
id_0_0_0_26 nd_1_0_7333_4666 0 pwl(0 0.0 4.436e-01ns 0.0  4.936e-01ns 2.5e-02  8.828e-01ns 2.5e-02  9.328e-01ns 0.0)
rdesr_0_0_0_26 nd_1_0_7333_4666 nd_1_0_7333_4666_ci 8.27439
cd_0_0_0_26 nd_1_0_7333_4666_ci 0 1.36555e-11
id_0_0_0_27 nd_1_0_8666_4666 0 pwl(0 0.0 1.270e-01ns 0.0  1.770e-01ns 2.1e-02  5.656e-01ns 2.1e-02  6.156e-01ns 0.0)
rdesr_0_0_0_27 nd_1_0_8666_4666 nd_1_0_8666_4666_ci 9.86696
cd_0_0_0_27 nd_1_0_8666_4666_ci 0 1.49532e-12
id_0_0_0_28 nd_1_0_666_6000 0 pwl(0 0.0 7.124e-01ns 0.0  7.624e-01ns 9.5e-02  7.905e-01ns 9.5e-02  8.405e-01ns 0.0)
rdesr_0_0_0_28 nd_1_0_666_6000 nd_1_0_666_6000_ci 12.1831
cd_0_0_0_28 nd_1_0_666_6000_ci 0 1.19011e-11
id_0_0_0_29 nd_1_0_2000_6000 0 pwl(0 0.0 3.948e-01ns 0.0  4.448e-01ns 5.8e-02  5.975e-01ns 5.8e-02  6.475e-01ns 0.0)
rdesr_0_0_0_29 nd_1_0_2000_6000 nd_1_0_2000_6000_ci 7.59635
cd_0_0_0_29 nd_1_0_2000_6000_ci 0 9.93301e-12
id_0_0_0_30 nd_1_0_3333_6000 0 pwl(0 0.0 8.238e-02ns 0.0  1.324e-01ns 1.0e-02  9.067e-01ns 1.0e-02  9.567e-01ns 0.0)
rdesr_0_0_0_30 nd_1_0_3333_6000 nd_1_0_3333_6000_ci 10.8147
cd_0_0_0_30 nd_1_0_3333_6000_ci 0 9.77438e-12
id_0_0_0_31 nd_1_0_4666_6000 0 pwl(0 0.0 3.991e-02ns 0.0  8.991e-02ns 7.9e-03  8.681e-01ns 7.9e-03  9.181e-01ns 0.0)
rdesr_0_0_0_31 nd_1_0_4666_6000 nd_1_0_4666_6000_ci 13.7034
cd_0_0_0_31 nd_1_0_4666_6000_ci 0 7.00525e-12
id_0_0_0_32 nd_1_0_6000_6000 0 pwl(0 0.0 6.202e-01ns 0.0  6.702e-01ns 3.6e-02  9.243e-01ns 3.6e-02  9.743e-01ns 0.0)
rdesr_0_0_0_32 nd_1_0_6000_6000 nd_1_0_6000_6000_ci 8.15229
cd_0_0_0_32 nd_1_0_6000_6000_ci 0 3.14699e-12
id_0_0_0_33 nd_1_0_7333_6000 0 pwl(0 0.0 3.063e-01ns 0.0  3.563e-01ns 2.4e-02  6.900e-01ns 2.4e-02  7.400e-01ns 0.0)
rdesr_0_0_0_33 nd_1_0_7333_6000 nd_1_0_7333_6000_ci 9.7451
cd_0_0_0_33 nd_1_0_7333_6000_ci 0 1.59956e-11
id_0_0_0_34 nd_1_0_8666_6000 0 pwl(0 0.0 7.664e-01ns 0.0  8.164e-01ns 8.2e-02  9.112e-01ns 8.2e-02  9.612e-01ns 0.0)
rdesr_0_0_0_34 nd_1_0_8666_6000 nd_1_0_8666_6000_ci 7.5629
cd_0_0_0_34 nd_1_0_8666_6000_ci 0 2.45662e-11
id_0_0_0_35 nd_1_0_666_7333 0 pwl(0 0.0 4.506e-01ns 0.0  5.006e-01ns 9.2e-03  8.885e-01ns 9.2e-03  9.385e-01ns 0.0)
rdesr_0_0_0_35 nd_1_0_666_7333 nd_1_0_666_7333_ci 22.4204
cd_0_0_0_35 nd_1_0_666_7333_ci 0 8.35235e-12
id_0_0_0_36 nd_1_0_2000_7333 0 pwl(0 0.0 5.915e-01ns 0.0  6.415e-01ns 4.1e-02  7.989e-01ns 4.1e-02  8.489e-01ns 0.0)
rdesr_0_0_0_36 nd_1_0_2000_7333 nd_1_0_2000_7333_ci 10.7016
cd_0_0_0_36 nd_1_0_2000_7333_ci 0 1.65213e-12
id_0_0_0_37 nd_1_0_3333_7333 0 pwl(0 0.0 5.339e-01ns 0.0  5.839e-01ns 1.6e-03  8.812e-01ns 1.6e-03  9.312e-01ns 0.0)
rdesr_0_0_0_37 nd_1_0_3333_7333 nd_1_0_3333_7333_ci 165.06
cd_0_0_0_37 nd_1_0_3333_7333_ci 0 1.07367e-12
id_0_0_0_38 nd_1_0_4666_7333 0 pwl(0 0.0 9.350e-02ns 0.0  1.435e-01ns 1.3e-02  8.059e-01ns 1.3e-02  8.559e-01ns 0.0)
rdesr_0_0_0_38 nd_1_0_4666_7333 nd_1_0_4666_7333_ci 9.60915
cd_0_0_0_38 nd_1_0_4666_7333_ci 0 6.77195e-13
id_0_0_0_39 nd_1_0_6000_7333 0 pwl(0 0.0 5.504e-01ns 0.0  6.004e-01ns 3.5e-02  7.645e-01ns 3.5e-02  8.145e-01ns 0.0)
rdesr_0_0_0_39 nd_1_0_6000_7333 nd_1_0_6000_7333_ci 11.88
cd_0_0_0_39 nd_1_0_6000_7333_ci 0 9.16188e-12
id_0_0_0_40 nd_1_0_7333_7333 0 pwl(0 0.0 2.332e-01ns 0.0  2.832e-01ns 1.3e-02  7.002e-01ns 1.3e-02  7.502e-01ns 0.0)
rdesr_0_0_0_40 nd_1_0_7333_7333 nd_1_0_7333_7333_ci 15.2522
cd_0_0_0_40 nd_1_0_7333_7333_ci 0 9.14226e-12
id_0_0_0_41 nd_1_0_8666_7333 0 pwl(0 0.0 3.707e-01ns 0.0  4.207e-01ns 1.9e-02  8.297e-01ns 1.9e-02  8.797e-01ns 0.0)
rdesr_0_0_0_41 nd_1_0_8666_7333 nd_1_0_8666_7333_ci 10.505
cd_0_0_0_41 nd_1_0_8666_7333_ci 0 6.62263e-12
id_0_0_0_42 nd_1_0_666_8666 0 pwl(0 0.0 5.856e-02ns 0.0  1.086e-01ns 9.6e-03  7.667e-01ns 9.6e-03  8.167e-01ns 0.0)
rdesr_0_0_0_42 nd_1_0_666_8666 nd_1_0_666_8666_ci 13.178
cd_0_0_0_42 nd_1_0_666_8666_ci 0 7.48092e-12
id_0_0_0_43 nd_1_0_2000_8666 0 pwl(0 0.0 5.123e-01ns 0.0  5.623e-01ns 1.2e-02  9.216e-01ns 1.2e-02  9.716e-01ns 0.0)
rdesr_0_0_0_43 nd_1_0_2000_8666 nd_1_0_2000_8666_ci 17.7681
cd_0_0_0_43 nd_1_0_2000_8666_ci 0 5.71042e-12
id_0_0_0_44 nd_1_0_3333_8666 0 pwl(0 0.0 2.014e-01ns 0.0  2.514e-01ns 2.1e-02  6.583e-01ns 2.1e-02  7.083e-01ns 0.0)
rdesr_0_0_0_44 nd_1_0_3333_8666 nd_1_0_3333_8666_ci 9.51996
cd_0_0_0_44 nd_1_0_3333_8666_ci 0 3.26941e-12
id_0_0_0_45 nd_1_0_4666_8666 0 pwl(0 0.0 7.875e-01ns 0.0  8.375e-01ns 7.9e-02  8.632e-01ns 7.9e-02  9.132e-01ns 0.0)
rdesr_0_0_0_45 nd_1_0_4666_8666 nd_1_0_4666_8666_ci 15.0596
cd_0_0_0_45 nd_1_0_4666_8666_ci 0 1.0708e-11
id_0_0_0_46 nd_1_0_6000_8666 0 pwl(0 0.0 4.698e-01ns 0.0  5.198e-01ns 9.7e-03  8.985e-01ns 9.7e-03  9.485e-01ns 0.0)
rdesr_0_0_0_46 nd_1_0_6000_8666 nd_1_0_6000_8666_ci 21.6253
cd_0_0_0_46 nd_1_0_6000_8666_ci 0 4.19268e-12
id_0_0_0_47 nd_1_0_7333_8666 0 pwl(0 0.0 6.074e-01ns 0.0  6.574e-01ns 1.5e-02  7.713e-01ns 1.5e-02  8.213e-01ns 0.0)
rdesr_0_0_0_47 nd_1_0_7333_8666 nd_1_0_7333_8666_ci 35.9673
cd_0_0_0_47 nd_1_0_7333_8666_ci 0 6.07473e-13
id_0_0_0_48 nd_1_0_8666_8666 0 pwl(0 0.0 2.907e-01ns 0.0  3.407e-01ns 1.8e-03  6.706e-01ns 1.8e-03  7.206e-01ns 0.0)
rdesr_0_0_0_48 nd_1_0_8666_8666 nd_1_0_8666_8666_ci 129.209
cd_0_0_0_48 nd_1_0_8666_8666_ci 0 9.51445e-13

*-- intentional decap
cd_add_cap0 nd_1_0_2000_2000 nd0 'dcap_int_val166'
cd_add_cap1 nd_1_0_4666_2000 nd1 'dcap_int_val167'
cd_add_cap2 nd_1_0_7333_2000 nd2 'dcap_int_val168'
cd_add_cap3 nd_1_0_2000_4666 nd3 'dcap_int_val169'
cd_add_cap4 nd_1_0_4666_4666 nd4 'dcap_int_val170'
cd_add_cap5 nd_1_0_7333_4666 nd5 'dcap_int_val171'
cd_add_cap6 nd_1_0_2000_7333 nd6 'dcap_int_val172'
cd_add_cap7 nd_1_0_4666_7333 nd7 'dcap_int_val173'
cd_add_cap8 nd_1_0_7333_7333 nd8 'dcap_int_val174'
rd_add0 nd0 0 'esr45'
rd_add1 nd1 0 'esr46'
rd_add2 nd2 0 'esr47'
rd_add3 nd3 0 'esr48'
rd_add4 nd4 0 'esr49'
rd_add5 nd5 0 'esr50'
rd_add6 nd6 0 'esr51'
rd_add7 nd7 0 'esr52'
rd_add8 nd8 0 'esr53'

.include 'moscap_esr.txt'
.include 'int_param_dcap.txt'


*-- p/g pad array
xd_pad_0_1 nd_pad_port_0_1 nd_pad_0_1 ubump_subckt
xd_pad_0_3 nd_pad_port_0_3 nd_pad_0_3 ubump_subckt
xd_pad_0_5 nd_pad_port_0_5 nd_pad_0_5 ubump_subckt
xd_pad_1_0 nd_pad_port_1_0 nd_pad_1_0 ubump_subckt
xd_pad_1_2 nd_pad_port_1_2 nd_pad_1_2 ubump_subckt
xd_pad_1_4 nd_pad_port_1_4 nd_pad_1_4 ubump_subckt
xd_pad_2_1 nd_pad_port_2_1 nd_pad_2_1 ubump_subckt
xd_pad_2_3 nd_pad_port_2_3 nd_pad_2_3 ubump_subckt
xd_pad_2_5 nd_pad_port_2_5 nd_pad_2_5 ubump_subckt
xd_pad_3_0 nd_pad_port_3_0 nd_pad_3_0 ubump_subckt
xd_pad_3_2 nd_pad_port_3_2 nd_pad_3_2 ubump_subckt
xd_pad_3_4 nd_pad_port_3_4 nd_pad_3_4 ubump_subckt
xd_pad_4_1 nd_pad_port_4_1 nd_pad_4_1 ubump_subckt
xd_pad_4_3 nd_pad_port_4_3 nd_pad_4_3 ubump_subckt
xd_pad_4_5 nd_pad_port_4_5 nd_pad_4_5 ubump_subckt
xd_pad_5_0 nd_pad_port_5_0 nd_pad_5_0 ubump_subckt
xd_pad_5_2 nd_pad_port_5_2 nd_pad_5_2 ubump_subckt
xd_pad_5_4 nd_pad_port_5_4 nd_pad_5_4 ubump_subckt
.include 'ubump.subckt'

*-- pad to via
rd_pad2via_0_1 nd_pad_0_1 nd_2_0_2000_3333  0.001
rd_pad2via_0_3 nd_pad_0_3 nd_2_0_2000_6000  0.001
rd_pad2via_0_5 nd_pad_0_5 nd_2_0_2000_8666  0.001
rd_pad2via_1_0 nd_pad_1_0 nd_2_0_3333_2000  0.001
rd_pad2via_1_2 nd_pad_1_2 nd_2_0_3333_4666  0.001
rd_pad2via_1_4 nd_pad_1_4 nd_2_0_3333_7333  0.001
rd_pad2via_2_1 nd_pad_2_1 nd_2_0_4666_3333  0.001
rd_pad2via_2_3 nd_pad_2_3 nd_2_0_4666_6000  0.001
rd_pad2via_2_5 nd_pad_2_5 nd_2_0_4666_8666  0.001
rd_pad2via_3_0 nd_pad_3_0 nd_2_0_6000_2000  0.001
rd_pad2via_3_2 nd_pad_3_2 nd_2_0_6000_4666  0.001
rd_pad2via_3_4 nd_pad_3_4 nd_2_0_6000_7333  0.001
rd_pad2via_4_1 nd_pad_4_1 nd_2_0_7333_3333  0.001
rd_pad2via_4_3 nd_pad_4_3 nd_2_0_7333_6000  0.001
rd_pad2via_4_5 nd_pad_4_5 nd_2_0_7333_8666  0.001
rd_pad2via_5_0 nd_pad_5_0 nd_2_0_8666_2000  0.001
rd_pad2via_5_2 nd_pad_5_2 nd_2_0_8666_4666  0.001
rd_pad2via_5_4 nd_pad_5_4 nd_2_0_8666_7333  0.001

.ends chiplet6
